US04563472
1-(2',3',3'-Triiodoallyl)-2,3-dichloro-4-nitropyrrole
To a solution of 220 mg (1.2 mmoles) of 2,3-dichloro-4-nitropyrrole (pyrrolomycin A) in 10 ml of dry N,N-dimethylformamide were added 606 ml (1 mmole) of 2,3,3-triiodoallyl-p-toluenesulfonate and 0.14 ml (1 mmole) of triethylamine and the resulting mixture was heated at 60° C. for 30 minutes. After cooling, 20 ml of cold water were added dropwise with stirring to the reaction mixture and stirring was continued for a further one hour. The so separated crystalline substance, 1-(2',3',3'-triiodoallyl)-2,3-dichloro-4-nitropyrrole, was recovered by filtration, washed with water and then dried. Yield 567 mg (95%), mp 126°-127° C.

reactant | 2,3-dichloro-4-nitropyrrole | 1.2 mmoles, 220 mg | ClC=1NC=C(C1Cl)[N+](=O)[O-] | C4H2Cl2N2O2
reactant | 2,3,3-triiodoallyl-p-toluenesulfonate | 1 mmole, 606 ml | IC(COS(=O)(=O)C1=CC=C(C=C1)C)=C(I)I | C10H9I3O3S
reactant | triethylamine | 1 mmole, 0.14 ml | C(C)N(CC)CC | C6H15N
reactant | water | 20 ml | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(2',3',3'-Triiodoallyl)-2,3-dichloro-4-nitropyrrole | IC(CN1C(=C(C(=C1)[N+](=O)[O-])Cl)Cl)=C(I)I | C7H3Cl2I3N2O2
